US07994171B2
5-(5-(1-(4,6-dimethylpyrimidin-2-yl)cyclopropylcarbamoyl)-4-methoxy-2-methylphenyl)-4-fluoro-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide.
To a mixture of 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid (50 mg, 0.11 mmol), crude 1-(4,6-dimethylpyrimidin-2-yl)cyclopropanamine (100 mg) in 2 ml DMF at room temperature was added BOP (100 mg, 0.22 M, 2.0 eq.) and triethyl amine (0.046 ml 0.33 M, 3.0 eq.), and the mixture stirred overnight under an N2 atmosphere. The mixture was poured into crushed ice, and the solid precipitate was filtered and dried. The product obtained was further purified by preparative HPLC. Yield: 15 mg (24%) 1H NMR (400 MHz, CD3OD): δ 7.97-7.94 (m, 2H), 7.89 (s, 1H), 7.51 (d, J=8.5 Hz, 1H), 7.31-7.25 (m, 3H), 7.19 (s, 1H), 7.14 (s, 1H), 4.11 (s, 3H), 2.96 (s, 3H), 2.48 (s, 6H), 2.31 (s, 3H), 1.86-1.83 (m, 2H), 1.55-1.52 (m, 2H). 19F NMR (376.57 MHz, CD3OD) δ−77.40 (TFA), −112.33, −122.75 (CFCl3 as reference).

reactant | 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | 0.11 mmol, 50 mg | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H19F2NO5
reactant | 1-(4,6-dimethylpyrimidin-2-yl)cyclopropanamine | 100 mg | CC1=NC(=NC(=C1)C)C1(CC1)N | C9H13N3
reactant | BOP | 0.22 M, 100 mg, 2.0 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethyl amine | 0.33 M, 0.046 ml, 3.0 eq. | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-(5-(1-(4,6-dimethylpyrimidin-2-yl)cyclopropylcarbamoyl)-4-methoxy-2-methylphenyl)-4-fluoro-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | CC1=NC(=NC(=C1)C)C1(CC1)NC(=O)C=1C(=CC(=C(C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1F)C)OC | C34H30F2N4O4
